US06624309B1
A. 4-(3-Butyl-5-isoxazolyl)benzoic Acid Ethyl Ester
A solution of ethyl 4-acetylbenzoate (2.93 g, 15.3 mmol) in 25 mL ether was added to a solution of lithium diisopropylamide (0.805 M in THF-hexane, 20.85 mL, 16.79 mmol) in 200 mL of ether at −70° C. The mixture was stirred at −78° C. for 30 minutes, magnesium bromide etherate (3.94 g, 15.26 mmol) was added and the reaction mixture was stirred for 30 minutes followed by the addition of valeryl chloride (1.47 g, 12.2 mmol) in 3 mL ether. Stirring was continued at −78° C. for an additional 30 minutes. The mixture was allowed to come to room temperature, quenched by adding saturated ammonium chloride and acidified (pH=3.0) by adding 20% sulfuric acid. The mixture was extracted with ethyl acetate, the organic layer was dried over magnesium sulfate, concentrated, and the residue subjected to flash chromatography (silica gel/hexane-ethyl acetate 95:5) to afford the title compound (1.35 g).

reactant | ethyl 4-acetylbenzoate | 15.3 mmol, 2.93 g | C(C)(=O)C1=CC=C(C(=O)OCC)C=C1 | C11H12O3
reactant | lithium diisopropylamide | 16.79 mmol, 0.805 M, 20.85 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | magnesium bromide | 15.26 mmol, 3.94 g | [Br-].[Mg+2].[Br-]
reactant | valeryl chloride | 12.2 mmol, 1.47 g | C(CCCC)(=O)Cl | C5H9ClO
solvent | ether | 25 mL | CCOCC | C4H10O
solvent | ether | 200 mL | CCOCC | C4H10O
solvent | ether | 3 mL | CCOCC | C4H10O
product | 4-(3-Butyl-5-isoxazolyl)benzoic Acid Ethyl Ester | 1.35 g | C(C)OC(C1=CC=C(C=C1)C1=CC(=NO1)CCCC)=O | C16H19NO3
